US04849424
In anhydrous tetrahydrofuran, 298 mg of 4,6-dichloropyrimidine was substituted with 272 mg of imidazole. The reaction mixture was treated according to the procedure of Example 1 to yield 294 mg of 4,6-bis(1-imidazoly)pyrimidine, recrystallized from a mixture of isopropyl-alcohol and methanol, and having a melting point of 243°-244° C.

reactant | 4,6-dichloropyrimidine | 298 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | imidazole | 272 mg | N1C=NC=C1 | C3H4N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4,6-bis(1-imidazoly)pyrimidine | 294 mg | N1(C=NC=C1)C1=NC=NC(=C1)N1C=NC=C1 | C10H8N6
